US09382234B2
To a solution of methyl 3-(((trans)-4-((tert -butoxycarbonyl)amino)cyclohexyl)amino)-5-chloro-2-methylbenzoate (330 mg, 0.831 mmol) and acetaldehyde (200 μL, 3.56 mmol) in 1,2-dichloroethane (DCE) (5 mL) was added acetic acid (400 μL) and the mixture was stirred at room temperature for 1 h. The mixture was cooled to 0° C. in an ice bath and sodium triacetoxyborohydride (700 mg, 3.30 mmol) was added (very thick suspension that slowly dissolved). The reaction was allowed to warm to room temperature and stirred overnight. LCMS showed the reaction was mostly complete. The reaction was neutralized with sat. NaHCO3, extracted with CH2Cl2, dried (Na2SO4), filtered and concentrated under vacuum. The residue was purified by silica gel chromatography (Analogix, 5 to 20% EtOAc in hexanes) and the pure fractions were combined and evaporated to dryness to give the product methyl 3-(((trans)-4-((tert -butoxycarbonyl)amino)cyclohexyl)(ethyl)amino)-5-chloro-2-methylbenzoate (250 mg, 0.588 mmol, 70.8% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) 6=7.44 (d, J =2.3 Hz, 1 H), 7.38 (d, J=2.3 Hz, 1 H), 6.68 (d, J=7.8 Hz, 1 H), 3.83 (s, 3 H), 3.16 (br. s., 1 H), 3.05 (q, J=6.9 Hz, 2 H), 2.59 (t, J=11.1Hz, 1 H), 2.34 (s, 3 H), 1.82-1.64 (m, 4 H), 1.47-1.38 (m, 2 H), 1.36 (s, 9 H), 1.16-1.04 (m, 2 H), 0.78 (t, J=6.9 Hz, 3 H). MS(ES) [M+H]+ 425.2.

reactant | methyl 3-(((trans)-4-((tert -butoxycarbonyl)amino)cyclohexyl)amino)-5-chloro-2-methylbenzoate | 0.831 mmol, 330 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)NC=1C(=C(C(=O)OC)C=C(C1)Cl)C | C20H29ClN2O4
reactant | acetaldehyde | 3.56 mmol, 200 μL | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 3.30 mmol, 700 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 400 μL | C(C)(=O)O | C2H4O2
product | methyl 3-(((trans)-4-((tert -butoxycarbonyl)amino)cyclohexyl)(ethyl)amino)-5-chloro-2-methylbenzoate | 0.588 mmol, 250 mg, 70.8% yield | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)N(C=1C(=C(C(=O)OC)C=C(C1)Cl)C)CC | C22H33ClN2O4
